US04755212
Preparation of 2-acetoxymethyl-6-chloro aniline
This material was prepared from 2-amino-3-chlorobenzyl alcohol and acetyl chloride by the general procedure outlined in Example 82. The product was isolated as an amber oil and was characterized by IR and 1H NMR spectroscopy and combustion analysis.

reactant | 2-amino-3-chlorobenzyl alcohol | NC1=C(CO)C=CC=C1Cl | C7H8ClNO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 2-acetoxymethyl-6-chloro aniline | C(C)(=O)OCC1=C(N)C(=CC=C1)Cl | C9H10ClNO2
